US07820699B2
17.4 To a stirred solution of 134 mg (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carboxylic acid tert-butyl ester at r.t. in 3.4 ml dioxane under an argon atmosphere were added 1.6 ml 4 M HCl in dioxane. The mixture was then stirred for 18 h. The resulting white suspension was concentrated to leave 139 mg 5-chloro-thiophene-2-carboxylic acid ((3R,5S)-5-pyrrolidin-1-ylmethyl-pyrrolidin-3-yl)-amide dihydrochloride as off-white solid. MS 314.3 ([M+H]+)

reactant | (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 134 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)NC(=O)C=1SC(=CC1)Cl)CN1CCCC1 | C19H28ClN3O3S
reactant | HCl | 4 M, 1.6 ml | Cl | ClH
solvent | dioxane | 3.4 ml | O1CCOCC1 | C4H8O2
product | 5-chloro-thiophene-2-carboxylic acid ((3R,5S)-5-pyrrolidin-1-ylmethyl-pyrrolidin-3-yl)-amide dihydrochloride | 139 mg | Cl.Cl.N1(CCCC1)C[C@@H]1C[C@H](CN1)NC(=O)C=1SC(=CC1)Cl | InChI=1S/C14H20ClN3OS.2ClH/c15-13-4-3-12(20-13)14(19)17-10-7-11(16-8-10)9-18-5-1-2-6-18;;/h3-4,10-11,16H,1-2,5-9H2,(H,17,19);2*1H/t10-,11+;;/m1../s1
